US07601846B2
7-Bromo-2-p-tolylimidazo[2,1-b]benzothiazole hydrobromide salt (9)
The title compound is prepared from 2-bromo-4′-methylacetophenone and 2-amino-6-bromobenzothiazole using method B in 24% yield: mp 205-208° C.; 1H-NMR (DMSO-d6) 2.31 (s, 3H), 7.23 (d, 2H), 7.73 (m, 3H), 7.91 (d, 1H), 8.32 (s, 1H), 8.70 (s, 1H); HR-MS (EI) m/z 341.9822 (M+).

reactant | 2-bromo-4′-methylacetophenone | BrCC(=O)C1=CC=C(C=C1)C | C9H9BrO
reactant | 2-amino-6-bromobenzothiazole | NC=1SC2=C(N1)C=CC(=C2)Br | C7H5BrN2S
product | 7-Bromo-2-p-tolylimidazo[2,1-b]benzothiazole hydrobromide salt | 24% yield | Br.BrC1=CC2=C(N3C(S2)=NC(=C3)C3=CC=C(C=C3)C)C=C1 | InChI=1S/C16H11BrN2S.BrH/c1-10-2-4-11(5-3-10)13-9-19-14-7-6-12(17)8-15(14)20-16(19)18-13;/h2-9H,1H3;1H
